US07816522B2
(21b) 6-bromo-8-methoxy-4H-benzo-[1,3]dioxine
To a solution of the 50 g of 4-bromo-2-hydroxymethyl-6-methoxyphenol in 450 ml of DMF there was added 20 g of sodium hydride (60% oily suspension) while cooling on ice, and the mixture was stirred at room temperature for 30 minutes. After adding 15 ml of bromochloromethane and 3.2 g of sodium iodide to the reaction mixture, it was stirred at 80° C. for 6 hours under a nitrogen atmosphere. Saturated aqueous ammonium chloride was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (31.2 g) as a white solid.

reactant | 4-bromo-2-hydroxymethyl-6-methoxyphenol | 50 g | BrC1=CC(=C(C(=C1)OC)O)CO | C8H9BrO3
reactant | sodium hydride | 20 g | [H-].[Na+]
reactant | bromochloromethane | 15 ml | BrCCl | CH2BrCl
reactant | sodium iodide | 3.2 g | [I-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 450 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-bromo-8-methoxy-4H-benzo-[1,3]dioxine | 31.2 g | BrC=1C=C(C2=C(COCO2)C1)OC | C9H9BrO3
